US07465731B2
To a solution of (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylic acid (1.58 g) in DMF (16 mL) was added O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (546 mg), HOBt (744 mg), and EDCI.HCl (1.06 mg) and the resulting mixture was stirred at ambient temperature for 4 hours. The reaction mixture was diluted with water and extracted with AcOEt. The organic phase was washed with sat NH4Cl aq solution and sat NaHCO3 aq solution, and brine, and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by silica gel column chromatography eluted with chloroform:methanol=97.5:2.5 to give (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (1.89 g) as colorless oil.

reactant | (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylic acid | 1.58 g | ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)O)C=C1 | C19H18ClN3O3
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 546 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HOBt | 744 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | EDCI.HCl | 1.06 mg | CCN=C=NCCCN(C)C.Cl
product | (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 1.89 g | ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)NOC2OCCCC2)C=C1 | C24H27ClN4O4
